US07968538B2
N-(2-Methyl-1-phenylpropyl)-2-nitro-5-(piperazin-1-yl)benzenamine hydrochloride
A saturated solution of HCl gas in anhydrous diethyl ether was added portion wise to a solution of tert-butyl 4-(3-(2-methyl-1-phenylpropylamino)-4-nitrophenyl)piperazine-1-carboxylate (145 mg, 0.32 mmol) in anhydrous dichloromethane (0.5 mL). The resulting mixture was allowed to stand at room temperature for 30 min, and conversion was monitored by LCMS. The solvent was concentrated down in vacuo and co-evaporated with diethyl ether to yield 60 mg (53%) of the title compound: 1H NMR (400 MHz, CD3OD): δ 8.04 (dd, 1H), 7.36-7.32 (m, 4H), 7.28-7.24 (m, 1H), 6.34 (br d, 1H), 5.89 (br s, 1H), 4.45 (br d, 1H), 3.50-3.20 (m, 8H), 2.18 (m, 1H), 1.09 (d, 3H), 0.98 (d, 3H). MS (ESI) m/z: Calculated: 354.26; Observed: 355.6 (M++1) [corresponding to the free base].

reactant | HCl | Cl | ClH
reactant | tert-butyl 4-(3-(2-methyl-1-phenylpropylamino)-4-nitrophenyl)piperazine-1-carboxylate | 0.32 mmol, 145 mg | CC(C(C1=CC=CC=C1)NC=1C=C(C=CC1[N+](=O)[O-])N1CCN(CC1)C(=O)OC(C)(C)C)C | C25H34N4O4
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
product | N-(2-Methyl-1-phenylpropyl)-2-nitro-5-(piperazin-1-yl)benzenamine hydrochloride | 60 mg, 53% | Cl.CC(C(C1=CC=CC=C1)NC1=C(C=CC(=C1)N1CCNCC1)[N+](=O)[O-])C | InChI=1S/C20H26N4O2.ClH/c1-15(2)20(16-6-4-3-5-7-16)22-18-14-17(8-9-19(18)24(25)26)23-12-10-21-11-13-23;/h3-9,14-15,20-22H,10-13H2,1-2H3;1H
